US06133253
116a. 3-Hydroxy-2,6-difluoropyridine
To a solution of 2, 6-difluoropyridine (6.7 mL, 73.8 mmole) in THF (100 mL, cooled to -78° C.) was added a 2M solution of LDA in heptane/THF/ethylbenene (38 mL, 76 mmol). The mixture was stirred at -78° C. for 1 hour, and trimethyl borate (6.8 mL, 89.7 mmol) was added. The mixture was stirred for 1 hour and allowed to warm to 20° C., then the reaction was quenched with HOAc (10 mL). The solution was made basic with 20% aq NaOH (20 mL), H2O2 (50%, 200 mL) was added, and the mixture stirred for 16 hours. The mixture was neutralized by addition of HCl (2M, aq) and extracted with EtOAc. The combined EtOAc extracts were dried (MgSO4). The solvent was evaporated under vacuum, and the crude product was chromatographed (silica gel; hexane/EtOAc 9:1 to 6:4) to yield 2.7g (28%) of the title compound. 1H NMR (DMSO-d6, 300 MHz) δ: 6.75 (dd, J=3.0, 5.5 Hz, 1H), 7.48 (m, 1H). MS (DCI/NH3) m/e 149 (M+NH4)+.

reactant | 2, 6-difluoropyridine | 73.8 mmole, 6.7 mL | FC1=NC(=CC=C1)F | C5H3F2N
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | trimethyl borate | 89.7 mmol, 6.8 mL | B(OC)(OC)OC | C3H9BO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | heptane THF | CCCCCCC.C1CCOC1
product | 3-Hydroxy-2,6-difluoropyridine | 2.7g, 28% | OC=1C(=NC(=CC1)F)F | C5H3F2NO
